US08258130B2
A mixture of 3-ethyl-pyrrolo[2,3-c]pyridin-1-ylamine (93 mg, 0.577 mmol), 2-(3-Fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (134 mg, 0.757 mmol), HATU (263 mg, 0.692 mmol) and DIPEA (223 mg, 1.73 mmol) in DMF (3 mL) is heated at 1500 C. for 1 h. The reaction is quenched with water and extracted with EtOAc. The organic layer is dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel column chromatography eluting with 0-100% ethyl acetate in heptane to afford 2-(3-Fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-ethyl-pyrrolo[2,3-c]pyridin-1-yl)-amide (86 mg). MS: 376 (M+H); 1H NMR (300 MHz, CD3OD): δ 9.15 (s, 1H), 8.69 (s, 1H), 8.37 (d, 1H), 8.15-8.26 (m, 2H), 7.70 (d, 1H), 7.55 (q, 1H), 7.49 (s, 1H), 7.29 (t, 1H), 2.80-2.90 (m, 5 H), 1.38 (t, 3H). IC50=7 nM.

reactant | 3-ethyl-pyrrolo[2,3-c]pyridin-1-ylamine | 0.577 mmol, 93 mg | C(C)C1=CN(C2=CN=CC=C21)N | C9H11N3
reactant | 2-(3-Fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 0.757 mmol, 134 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | HATU | 0.692 mmol, 263 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.73 mmol, 223 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(3-Fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-ethyl-pyrrolo[2,3-c]pyridin-1-yl)-amide | 86 mg | C(C)C1=CN(C2=CN=CC=C21)NC(=O)C=2C(=NC(=NC2)C2=CC(=CC=C2)F)C | C21H18FN5O
